US07491723B2
1-{2-[(3R)-3-aminopyrrolidin-1-yl]-1-[4-(benzyloxy)phenyl]ethyl}cyclohexanol dihydrochloride
In an analogous manner to Example 1, step 2, 1-{2-(3R)-3-aminopyrrolidin-1-yl]-1-[4-(benzyloxy)phenyl]ethyl}cyclohexanol dihydrochloride was prepared from tert-butyl {(3R)-1-[[4-(benzyloxy)phenyl](1-hydroxycyclohexyl)acetyl]pyrrolidin-3-yl}carbamate. MS (ESI) m/z 395; HRMS: calcd for C25H34N2O2+H+, 395.26930; found (ESI, [M+H]+), 395.2684.

reactant | cyclohexanol dihydrochloride | Cl.Cl.C1(CCCCC1)O
reactant | tert-butyl {(3R)-1-[[4-(benzyloxy)phenyl](1-hydroxycyclohexyl)acetyl]pyrrolidin-3-yl}carbamate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)C1(CCCCC1)O | C30H40N2O5
product | 1-{2-[(3R)-3-aminopyrrolidin-1-yl]-1-[4-(benzyloxy)phenyl]ethyl}cyclohexanol dihydrochloride | Cl.Cl.N[C@H]1CN(CC1)CC(C1=CC=C(C=C1)OCC1=CC=CC=C1)C1(CCCCC1)O | InChI=1S/C25H34N2O2.2ClH/c26-22-13-16-27(17-22)18-24(25(28)14-5-2-6-15-25)21-9-11-23(12-10-21)29-19-20-7-3-1-4-8-20;;/h1,3-4,7-12,22,24,28H,2,5-6,13-19,26H2;2*1H/t22-,24?;;/m1../s1
